US08309562B2
(4-Ethoxy-3-fluoro-phenyl)-methyl-(2-methyl-quinazolin-4-yl)-amine hydrochloride:
The title compound was prepared from 4-chloro-2-methyl-quinazoline (78 mg, 0.44 mmol) and (4-ethoxy-3-fluoro-phenyl)-methyl-amine hydrochloride (81 mg, 0.39 mmol) by a procedure similar to Example 251. 1H NMR (CDCl3) δ 8.57 (m, 1H), 7.74 (m, 1H), 7.19 (m, 1H), 7.10 (dd, J=2.6, 10.6 Hz, 1H), 7.05 (d, J=8.8 Hz, 1H), 6.98 (ddd, J=1.5, 2.8, 8.5 Hz, 1H), 6.81 (m, 1H), 4.19 (q, J=6.9 Hz, 2H), 3.77 (s, 3H), 2.98 (s, 3H), 1.53 (t, J=7.0 Hz, 3H); LC-MS (ESI+; 312 ([M+H]+)).

reactant | 4-chloro-2-methyl-quinazoline | 0.44 mmol, 78 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | (4-ethoxy-3-fluoro-phenyl)-methyl-amine hydrochloride | 0.39 mmol, 81 mg | Cl.C(C)OC1=C(C=C(C=C1)NC)F
product | (4-Ethoxy-3-fluoro-phenyl)-methyl-(2-methyl-quinazolin-4-yl)-amine hydrochloride | Cl.C(C)OC1=C(C=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)C)C)F | InChI=1S/C18H18FN3O.ClH/c1-4-23-17-10-9-13(11-15(17)19)22(3)18-14-7-5-6-8-16(14)20-12(2)21-18;/h5-11H,4H2,1-3H3;1H
